US08389555B2
STEP B: Preparation of 4,5,6,7-tetrahydro-benzothiazole-2,6-diamine dihydrobromide
A solution of 9.43 g (60 mmol) (1,4-dioxa-spiro[4.5]dec-8-yl)amine in 120 mL concentrated aqueous hydrobromic acid is stirred for 15 minutes at room temperature and then 3.12 mL (60 mmol) bromine are added. After further stirring for 15 minutes, 4.56 g (60 mmol) of thiourea is added. The resulting solution is stirred for another at room temperature until a white precipitation can be observed. Afterwards the mixture is heated for 2 hours at 90° C. The clear reaction mixture is then concentrated under vacuum. The solid residue is suspended in ethanol, heated to reflux and filtrated after cooling to room temperature. The resulting residue is dried under high vacuum.

reactant | (1,4-dioxa-spiro[4.5]dec-8-yl)amine | 60 mmol, 9.43 g | O1CCOC12CCC(CC2)N | C8H15NO2
reactant | bromine | 60 mmol, 3.12 mL | BrBr | Br2
reactant | thiourea | 60 mmol, 4.56 g | NC(=S)N | CH4N2S
solvent | hydrobromic acid | 120 mL | Br | BrH
product | 4,5,6,7-tetrahydro-benzothiazole-2,6-diamine dihydrobromide | Br.Br.S1C(=NC2=C1CC(CC2)N)N | InChI=1S/C7H11N3S.2BrH/c8-4-1-2-5-6(3-4)11-7(9)10-5;;/h4H,1-3,8H2,(H2,9,10);2*1H
